US05424275
2.41 Grams of 60% sodium hydride in oil was suspended in 100 ml of N,N-dimethylformamide and to the suspension was added gradually 17.44 g of benzyl 6-phenylsalicylate dissolved in 50 ml of N,N-dimethylformamide. Then, the mixture was stirred at room temperature for 30 minutes. To the reaction system was added 10.01 g of 4-chloro-2,6-dimethoxypyrimidine in 50 ml of N,N-dimethylformamide and the reaction mixture was heated at 100°-110° C. with stirring for 3 hours. After cooling on standing, the reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The organic layer separated from the aqueous layer was washed with aqua. saturated sodium chloride solution three times and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue obtained was subjected to silica gel column chromatography (hexane/ethyl acetate (10:1-3:1, v/v) to obtain 21.55 g of benzyl 2-(2,6-dimethoxypyrimidine-4-yloxy)-6-phenylbenzoate.

reactant | sodium hydride | [H-].[Na+]
reactant | benzyl 6-phenylsalicylate | 17.44 g | C1(=CC=CC=C1)C=1C=CC=C(C1C(=O)OCC1=CC=CC=C1)O | C20H16O3
reactant | 4-chloro-2,6-dimethoxypyrimidine | 10.01 g | ClC1=NC(=NC(=C1)OC)OC | C6H7ClN2O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | benzyl 2-(2,6-dimethoxypyrimidine-4-yloxy)-6-phenylbenzoate | 21.55 g | COC1=NC(=CC(=N1)OC1=C(C(=O)OCC2=CC=CC=C2)C(=CC=C1)C1=CC=CC=C1)OC | C26H22N2O5
